US08536209B2
[2-(3-Acetyl-benzyl)-2H-[1,2,3]triazol-4-yl]-carbamic acid 2-chloro-benzyl ester
Following general procedure D (step 2) followed by B, starting from 2-[3-(2-methyl-[1,3]dioxolan-2-yl)-benzyl]-2H-[1,2,3]triazol-4-ylamine and 2-chlorobenzylchloroformate.

reactant | 2-[3-(2-methyl-[1,3]dioxolan-2-yl)-benzyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C=1C=C(CN2N=CC(=N2)N)C=CC1 | C13H16N4O2
reactant | 2-chlorobenzylchloroformate | C1=CC=C(C(=C1)COC(=O)Cl)Cl | C8H6Cl2O2
product | [2-(3-Acetyl-benzyl)-2H-[1,2,3]triazol-4-yl]-carbamic acid 2-chloro-benzyl ester | ClC1=C(COC(NC2=NN(N=C2)CC2=CC(=CC=C2)C(C)=O)=O)C=CC=C1 | C19H17ClN4O3
